US07902379B2
A) 5-Chloro-3-hydroxy-3-(2,6-dimethoxy-pyridin-3-yl)-1,3-dihydro-indol-2-one
To a stirred solution of 2,6-dimethoxypyridine (50 mmol, 6.61 mL) in THF (100 mL) was added slowly a 1.6 M solution of n-butyllithium in hexanes (55 mmol, 34.4 mL) at −78° C. The mixture was allowed to warm slowly to 10° C. and kept at this temperature for 30 min. The reaction mixture was re-cooled to −78° C. and a slurry of 5-chloroisatin (20 mmol, 3.63 g) in THF (150 mL) was added portionwise, keeping the temperature below −60° C. The reaction was allowed to come to room temperature. The mixture was quenched with 10% aqueous ammonium chloride solution and extracted several times with ethyl acetate. The combined organic layers were washed with water, dried over magnesium sulfate and evaporated in vacuo. Recrystallization from ethyl acetate yielded 4.56 g (71%) of the desired intermediate as a white crystalline solid (71%).

reactant | 2,6-dimethoxypyridine | 50 mmol, 6.61 mL | COC1=NC(=CC=C1)OC | C7H9NO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 5-chloroisatin | 20 mmol, 3.63 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 5-Chloro-3-hydroxy-3-(2,6-dimethoxy-pyridin-3-yl)-1,3-dihydro-indol-2-one | 4.56 g | ClC=1C=C2C(C(NC2=CC1)=O)(C=1C(=NC(=CC1)OC)OC)O | C15H13ClN2O4
